US07960412B2
6-{2-{[4-(2-Dimethylaminoethoxy)benzyl]propylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-hydroxybenzoyl)propylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (30 mg) and 2-chloro-N,N-dimethylacetamide (14 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (16 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)propylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 30 mg | OC1=CC=C(C(=O)CCCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C32H37NO5
reactant | 2-chloro-N,N-dimethylacetamide | 14 mg | ClCC(=O)N(C)C | C4H8ClNO
product | 6-{2-{[4-(2-Dimethylaminoethoxy)benzyl]propylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 16 mg | CN(CCOC1=CC=C(CCCCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C=C1)C | C31H40N2O3
